US07572805B2
Part B. (±)-3-Hydroxy-7-(trifluoromethyl)isobenzofuran-1(3H)-one
To a solution of N,N-diethyl-2-(trifluoromethyl)benzamide (8.0 g, 32.6 mmol) and N,N,N′N′-tetramethylethylenediamine (5.4 mL, 35.9 mmol) in 100 mL of anhydrous THF at −78° C. was added sec-butyllithium (35.9 mL of a 1.0 M solution in hexanes, 35.9 mmol) dropwise over 30 min. The reaction was stirred at −78° C. for 1 h and then there was added DMF (7.6 mL, 97.8 mmol). The reaction was stirred at −78° C. for 1 h and then was quenched with 1N HCl (25 mL). The reaction mixture was concentrated in vacuo. The residue was taken up in 6N HCl (100 mL) and stirred at 100° C. for 18 h. The reaction mixture was allowed to cool, was diluted with water and extracted with EtOAc. The organics were washed with brine, dried (MgSO4) and concentrated to afford 8.5 g of a tan solid. This material was purified by acid-base extraction as follows. The solid was dissolved in 1:1 hexane/EtOAc and extracted twice with sat'd aq NaHCO3/sat'd aq Na2CO3. The organics were discarded. The combined aqueous extracts were acidified with 12 N HCl and extracted with EtOAc. The EtOAc extracts were washed with brine, dried (MgSO4), and concentrated to afford 6.3 g (88%) of the title compound as a pale yellow powder. LRMS (ESI): 219.02 (M+H)+.

reactant | N,N-diethyl-2-(trifluoromethyl)benzamide | 32.6 mmol, 8.0 g | C(C)N(C(C1=C(C=CC=C1)C(F)(F)F)=O)CC | C12H14F3NO
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | DMF | 97.8 mmol, 7.6 mL | CN(C)C=O | C3H7NO
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | (±)-3-Hydroxy-7-(trifluoromethyl)isobenzofuran-1(3H)-one | 8.5 g | OC1OC(C2=C(C=CC=C12)C(F)(F)F)=O | C9H5F3O3
